US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-methoxypyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.94 g) and benzyl bromide (0.285 mL) as starting materials, 5-benzyloxy-N-[(1-benzylpyrazol-4-yl)methyl]-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.31 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, N-[(1-benzylpyrazol-4-yl)methyl]-5-hydroxy-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.087 g) was obtained.

reactant | 5-benzyloxy-N-(6-methoxypyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.94 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)OC
reactant | benzyl bromide | 0.285 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-benzyloxy-N-[(1-benzylpyrazol-4-yl)methyl]-N-(6-methoxypyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.31 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)OC)CC=1C=NN(C1)CC1=CC=CC=C1 | C35H34N4O3
